US05714714
Anhydrous NH3 (g) was bubbled into a stirred solution of ethyl N-nitrocarbamate (503.0 g, 3.75 mol, mp 63°-66° C.), CH2Cl2 (1625 mL) and dry CH3OH (825 mL), precooled to 9° C. under N2, until the exothermic reaction subsided (the NH3 addition rate was controlled so as not to exceed a reaction temperature of 23° C.). After the NH3 addition was complete, the mixture was filtered and the collected solid was dried under high vacuum (overnight) to give ammonium ethyl N-nitrocarbamate as colorless crystals (563.0 g, 99%). mp 175°-176° C. IR (KBr) 3230 (s), 3000 (m), 1725 (s) and 1685 (s), 1445 and 1395 (s), 1310 (m), 1220 (s), 1100 (S), 1030 (m) cm-1. 1H NMR (90 MHz, d6 -DMSO) δ 7.30 (bs, 4H, exch D2O), 3.90 (q, 2H, J=4.5 Hz), 1.10 (t, 3H, J=4.5 Hz).

reactant | NH3 | N | H3N
reactant | ethyl N-nitrocarbamate | 3.75 mol, 503.0 g | [N+](=O)([O-])NC(OCC)=O | C3H6N2O4
reactant | CH2Cl2 | 1625 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 825 mL | CO | CH4O
product | ammonium ethyl N-nitrocarbamate | 563.0 g, 99% | [N+](=O)([O-])NC(OCC)=O.[NH4+] | InChI=1S/C3H6N2O4.H3N/c1-2-9-3(6)4-5(7)8;/h2H2,1H3,(H,4,6);1H3/p+1
